US09145441B2
Compound 106d. (S)-1-((S)-2-tert-Butoxycarbonylamino-3-difluoromethoxy-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
A cooled (0° C.) solution of (S)-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester 3-(2,2,2-trichloro-ethyl)ester (923 mg, 2.0 mmol) in dichloromethane (3 mL) was treated with trifluoroacetic acid (3 mL). After stirring at room temperature for 1.5 h, the volatiles were removed in vacuo and residual trifluoroacetic acid was azeotroped off with toluene. The residue was combined with (S)-2-tert-butoxycarbonylamino-3-difluoromethoxy-propionic acid (260 mg, 1.02 mmol) and dissolved in anhydrous acetonitrile (10 mL). The cooled (0° C.) mixture was subsequently treated with 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxide hexafluorophosphate (543 mg, 1.43 mmol) and N,N-diisopropylethylamine (0.71 mL, 4.08 mmol). After stirring at room temperature for 3 days, the volatiles were removed in vacuo and the residue was partitioned between ethyl acetate and water. The organics were separated, dried over anhydrous sodium sulfate, filtered and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography eluting with a stepwise gradient of iso-hexanes/ethyl acetate 1:0 to 7:3 to provide the title compound (143 mg, 28%) as a pale Greene gum and as a complex mixture of rotamers. LCMS (m/z) 498.0, 500.0 [M+H], Tr=2.91 min.

reactant | (S)-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester 3-(2,2,2-trichloro-ethyl)ester | 2.0 mmol, 923 mg | ClC(COC(=O)[C@H]1N(N(CCC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)(Cl)Cl | C17H27Cl3N2O6
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-2-tert-butoxycarbonylamino-3-difluoromethoxy-propionic acid | 1.02 mmol, 260 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)COC(F)F | C9H15F2NO5
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxide hexafluorophosphate | 1.43 mmol, 543 mg | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | N,N-diisopropylethylamine | 4.08 mmol, 0.71 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S)-1-((S)-2-tert-Butoxycarbonylamino-3-difluoromethoxy-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 143 mg, 28% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](COC(F)F)NC(=O)OC(C)(C)C)=O)(Cl)Cl | C16H24Cl3F2N3O6
